* Z:\mnt\design.r\spice\examples\3440.asc
R1 N007 0 60K
XU1 N007 IN N001 N002 0 OUT IN N003 N004 N005 LTC3440
L1 N001 N002 10µ
V1 IN 0 3
R2 OUT N004 340K
R3 N004 0 200K
R4 N006 N005 120K
C1 N004 N006 330p
C2 OUT 0 22µ
C3 N003 0 .01µ
R5 IN N003 1Meg
Rload OUT 0 100
.tran 5m startup
.lib LTC3440.sub
.backanno
.end
